US04492692
2-Fluoro-1-triphenylmethylimidazole-4-carboxylic acid and 3-dimethylaminopropylamine were condensed in THF by the mixed anhydride procedure described for the preparation of starting material for Example 18, to give 4-(3-dimethylaminopropylcarbamoyl)-2-fluoro-1-triphenylmethylimidazole, having the following n.m.r. in CDCl3 : 1.8 (m, 2H); 2.3 (s, 6H); 2.4 (t, 2H); 3.5 (q, 2H); 7.0-7.6 (m, 16H).

reactant | 2-Fluoro-1-triphenylmethylimidazole-4-carboxylic acid | FC=1N(C=C(N1)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O2
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3-dimethylaminopropylcarbamoyl)-2-fluoro-1-triphenylmethylimidazole | CN(CCCNC(=O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)C | C28H29FN4O
